US05994378
A mixture of 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole (1.83 g) and triethyl phosphonoacetate (1.53 ml) in the mixed solvent of tetrahydrofuran (10 ml) and N,N-dimethylformamide (10 ml) was stirred under ice-cooling. After several minutes, potassium tert-butoxide was added to the mixture, which was stirred for 1 hour at same temperature. The resulting mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to column chromatography on silica gel and eluted with a mixture of n-hexane and ethyl acetate. The fractions containing the objective compound were combined and concentrated under reduced pressure to give ethyl (E)-3-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]propenoate (0.68 g).

reactant | 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole | 1.83 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C=O | C16H15NO2S
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl (E)-3-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]propenoate | 0.68 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)/C=C/C(=O)OCC | C20H21NO3S
